US04329488
1.1 g of sodium lactate, 3.5 g of N-[(isopropylideneamino)oxy]-N-methyl-piperidinium iodide and 0.1 g of 15-crown-5 in 10 ml of diglycol dimethyl ether are heated at 110° C. under nitrogen for 4 hours. The mixture is then poured into 50 ml of water and extracted three times with ethyl acetate. The organic phase is washed four times with water and subsequently evaporated. After chromatograhy of the residue on a 10-fold amount of silica gel with n-hexane/ethyl acetate (1:1) and evaporation of the eluate, there is obtained 0.35 g of L (-)-lactic acid [[(isopropylideneamino)oxy]methyl] ester; [α]D20 =-1.2° (c=1.50% in chloroform).

reactant | sodium lactate | 1.1 g | C(C(O)C)(=O)[O-].[Na+]
reactant | N-[(isopropylideneamino)oxy]-N-methyl-piperidinium iodide | 3.5 g | [I-].C(C)(C)=NO[N+]1(CCCCC1)C
reactant | 15-crown-5 | 0.1 g | C1COCCOCCOCCOCCO1 | C10H20O5
solvent | water | 50 ml | O | H2O
product | (-)-lactic acid [[(isopropylideneamino)oxy]methyl] ester | C(C)(C)=NOCOC(C(O)C)=O | C7H13NO4
